US05371093
α-[1-(2-Phenylethyl)-4-piperidinyl]-α-phenyl-2-benzo[b]thiophenemethanol
Dissolve [benzo[b]thiophene-2-yl][1-(2-phenylethyl)-4-piperidinyl]methanone (3.5 g, 10.01 mmol) in anhydrous tetrahydrofuran (100 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, phenyllithium (6 mL of a 2.0M solution in cyclohexane/ethyl ether, 12.0 mmol) and stir at -78° C. for 5 hours. Remove the ice bath and allow to warm to room temperature. Pour into saturated ammonium chloride (100 mL) and stir for 20 minutes. Separate the organic phase and extract the aqueous phase with ethyl acetate. Combine the organic phases, wash with water, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (50% ethyl acetate/hexane) and recrystallize (isopropanol) to give the title compound as a white solid; mp 144°-146° C.

reactant | [benzo[b]thiophene-2-yl][1-(2-phenylethyl)-4-piperidinyl]methanone | 10.01 mmol, 3.5 g | S1C2=C(C=C1C(=O)C1CCN(CC1)CCC1=CC=CC=C1)C=CC=C2 | C22H23NOS
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | cyclohexane ethyl ether | C1CCCCC1.C(C)OCC
product | α-[1-(2-Phenylethyl)-4-piperidinyl]-α-phenyl-2-benzo[b]thiophenemethanol | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)(C1=CC2=C(S1)C=CC=C2)C2=CC=CC=C2 | C28H29NOS
